US07737145B2
A solution of 4-hydroxybenzaldehyde (2 g, 16.7 mmol) in DMF (33 mL) was stirred as solid potassium carbonate (4.1 g, 29.7 mmol) was added, and the reaction mixture was then stirred at RT. After 30 min, solid 2,2,3,3,3-pentafluoropropyl 4-methylbenzenesulfonate (5 g, 16.4 mmol) was added into the reaction mixture. The mixture was stirred and heated at 100° C. for 7 h. The reaction mixture was allowed to cool, diluted with ethyl acetate, washed with water (3×) and brine, and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexane afforded 4-(2,2,3,3,3-pentafluoropropoxy)benzaldehyde (1.26 g).

reactant | 4-hydroxybenzaldehyde | 16.7 mmol, 2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 29.7 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3,3-pentafluoropropyl 4-methylbenzenesulfonate | 16.4 mmol, 5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(C(F)(F)F)(F)F | C10H9F5O3S
solvent | DMF | 33 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2,2,3,3,3-pentafluoropropoxy)benzaldehyde | 1.26 g | FC(COC1=CC=C(C=O)C=C1)(C(F)(F)F)F | C10H7F5O2
